US07943776B2
To 3-{[4-(hydroxy)benzoyl]amino}-N-cyclopropyl-4-methylbenzamide (1.50 g, 4.84 mmol) and potassium carbonate (3.34 g, 24.2 mmol) in refluxing acetonitrile (20 mL) was added a solution of 2,6-bis(bromomethyl)pyridine (5.13 g, 19.4 mmol) in acetonitrile (10 mL) over 25 mins. The reaction was cooled to room temperature and water (20 mL) was added. The mixture was extracted with DCM (3×30 mL) and the organic layers were combine and evaporated to leave a solid which was triturated with hot ethyl acetate to give 3-[(4-{[6-(bromomethyl)pyridin-2-yl]methoxy}benzoyl)amino]-N-cyclopropyl-4-methylbenzamide as a white solid (1.449 g, 61%); NMR Spectrum: (DMSOd6) 0.58 (m, 2H), 0.70 (m, 2H), 2.27 (s, 3H), 2.85 (m, 1H), 4.73 (s, 2H), 5.30 (s, 2H), 7.19 (d, 2H), 7.32 (d, 1H), 7.49 (d, 1H), 7.55 (d, 1H), 7.65 (d, 1H), 7.81 (s, 1H), 7.90 (t, 1H)7.98 (d, 2H), 8.38 (d, 1H), 9.85 (s, 1H); Mass Spectrum: M+H+ 494, 496 Br pattern.

reactant | 3-{[4-(hydroxy)benzoyl]amino}-N-cyclopropyl-4-methylbenzamide | 4.84 mmol, 1.50 g | OC1=CC=C(C(=O)NC=2C=C(C(=O)NC3CC3)C=CC2C)C=C1 | C18H18N2O3
reactant | potassium carbonate | 24.2 mmol, 3.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-bis(bromomethyl)pyridine | 19.4 mmol, 5.13 g | BrCC1=NC(=CC=C1)CBr | C7H7Br2N
reactant | water | 20 mL | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-[(4-{[6-(bromomethyl)pyridin-2-yl]methoxy}benzoyl)amino]-N-cyclopropyl-4-methylbenzamide | 1.449 g, 61% | BrCC1=CC=CC(=N1)COC1=CC=C(C(=O)NC=2C=C(C(=O)NC3CC3)C=CC2C)C=C1 | C25H24BrN3O3
